US04409214
To a suspension of benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.8 g) in methanol (300 ml) was added conc. hydrochloric acid (2.88 ml), and the mixture was stirred at 35° C. for an hour. The reaction mixture was adjusted to pH 5.5 with 5% aqueous sodium bicarbonate, and the methanol was removed by distillation under reduced pressure, followed by extraction with ethyl acetate (300 ml). The extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.5 g), mp 125°-129° C.

reactant | benzhydryl 7-[2-(6-formamidopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 4.8 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C36H35N5O8S
reactant | hydrochloric acid | 2.88 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 4.5 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C35H35N5O7S
